************************************************************************
* auCdl Netlist:
* 
* Library Name:  stdcell_425Lib
* Top Cell Name: xnor2
* View Name:     schematic
* Netlisted on:  Feb 28 10:01:48 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        vss!
+        vdd:P
+        VDD:P
+        vss:G
+        VSS:G

*.PIN vdd!
*+    vss!
*+    vdd
*+    VDD
*+    vss
*+    VSS

************************************************************************
* Library Name: stdcell_425Lib
* Cell Name:    xnor2
* View Name:    schematic
************************************************************************

.SUBCKT xnor2 A B Z
*.PININFO A:I B:I Z:O
MM6 net8 A vdd! vdd! PMOS_VTL W=360.0n L=50n m=1
MM5 Z B net8 vdd! PMOS_VTL W=360.0n L=50n m=1
MM4 Z net4 vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 net4 B vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM0 net4 A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM9 net3 net4 vss! vss! NMOS_VTL W=180.0n L=50n m=1
MM8 Z B net3 vss! NMOS_VTL W=180.0n L=50n m=1
MM7 Z A net3 vss! NMOS_VTL W=180.0n L=50n m=1
MM3 net1 B vss! vss! NMOS_VTL W=180.0n L=50n m=1
MM2 net4 A net1 vss! NMOS_VTL W=180.0n L=50n m=1
.ENDS

